US08975254B2
c) (R)—N-{2-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propyl}-2-methyl-1H-imidazole-4-carboxamide
(R)—N-{2-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propyl}-2-methyl-1H-imidazole-4-carboxamide was prepared using the method of Example 247 starting from 2-methyl-1H-imidazole-4-carboxylic acid and (R)-4-[1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl]-2-chlorobenzonitrile. The crude product was purified by flash chromatography on silica gel by using CH2Cl2-MeOH (98:2) as an eluent. The resulting product was triturated in DCM at RT to afford the title compound. 1H NMR (400 MHz, CDCl3): 1.61 (3H, d), 2.39 (3H, s), 3.74-3.81 (1H, m), 3.85-3.91 (1H, m), 4.63 (1H, m), 6.59 (1H, d), 7.45 (1H, d), 7.49 (1H, d), 7.62 (1H, t), 7.66 (1H, d), 7.84 (1H, dd), 8.00 (1H, d), 10.04 (1H, broad s).

reactant | 2-methyl-1H-imidazole-4-carboxylic acid | CC=1NC=C(N1)C(=O)O | C5H6N2O2
reactant | (R)-4-[1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl]-2-chlorobenzonitrile | NC[C@@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C13H13ClN4
product | (R)—N-{2-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propyl}-2-methyl-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)[C@@H](CNC(=O)C=1N=C(NC1)C)C | C18H17ClN6O
